US07622471B2
2-(2-Hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester
2-Piperidineethanol (1.292 g) and triethylamine (1.393 mL) were dissolved in methylene chloride (40 mL). To the resultant solution, di-tert-butyl dicarbonate (2.182 g) in methylene chloride (40 mL) was added at room temperature, followed by stirring for 1 hour. The residue obtained by removal through evaporation of the reaction solvent under reduced pressure was partitioned between water and ethyl acetate. The organic layer was sequentially washed with 5% aqueous citric acid, water, and saturated brine, and then dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure, to thereby give the title compound as an oily product (2.182 g, 95%).

reactant | 2-Piperidineethanol | 1.292 g | N1C(CCCC1)CCO | C7H15NO
reactant | triethylamine | 1.393 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.182 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCO | C12H23NO3
